* multi-device 74xx models

.include dig000_excerpt.lib

.subckt 74LS74M _R1 D1 C1 _S1 Q1 _Q1 VGND _Q2 Q2 _S2 C2 D2 _R2 VCC
* 74LS74A 1PREBAR 1CLRBAR 1CLK 1D 1Q 1QBAR
XUA  _S1 _R1 C1 D1 Q1 _Q1 74LS74A
XUB  _S2 _R2 C2 D2 Q2 _Q2 74LS74A
.ends

.subckt 74LS20M 1A 1B 1C 1D 1Y VGND 2A 2B 2C 2D 2Y VCC
* 74LS20  1A 1B 1C 1D 1Y
XUA 1A 1B 1C 1D 1Y 74LS20
XUB 2A 2B 2C 2D 2Y 74LS20
.ends

.subckt 74LS86M 1A 1B 1Y 2A 2B 2Y VGND 3Y 3A 3B 4Y 4A 4B VCC
* 74LS86 A1 B1 Y1
XUA 1A 1B 1Y 74LS86
XUB 2A 2B 2Y 74LS86
XUC 3A 3B 3Y 74LS86
XUD 4A 4B 4Y 74LS86
.ends

.subckt 74LS138M A0 A1 A2 EN1 EN2 E3 O7 VGND O6 O5 O4 O3 O2 O1 O0 VCC
* 74LS138 A B C G1 G2ABAR G2BBAR Y0 Y1 Y2 Y3 Y4 Y5 Y6 Y7
XUA A0 A1 A2 E3 EN2 EN1 O0 O1 O2 O3 O4 O5 O6 O7 74LS138 ; 74HCT138A
.ends
