* ngspice KiCad multi-device 74xx model

*.subckt 74HC20M 1A 1B NC 1C 1D 1Y VGND 2Y 2A 2B NC 2C 2D VCC
.subckt 74HC20M 1 2 3 4 5 6 7 8 9 10 11 12 13 14

.SUBCKT 74HC20  1A 1B 1C 1D 1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 nand(4) DPWR DGND
+     1A 1B 1C 1D 1Y
+     DLY_HC20 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC20 ugate (tplhTY=14ns tplhMX=22ns tphlTY=14ns tphlMX=22ns)
.ENDS  74HC20

* 74LS20  1A 1B 1C 1D 1Y
XUA 1 2 4 5 6 74HC20
XUB 9 10 12 13 8 74HC20
.ends
