* ngspice KiCad multi-device 74xx model
.subckt 74HC86M 1A 1B 1Y 2A 2B 2Y VGND 3Y 3A 3B 4Y 4A 4B VCC

.SUBCKT 74HC86 1A 1B 1Y
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0
U1 xor DPWR DGND
+     1A 1B 1Y
+     DLY_HC86 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC86 ugate (tplhTY=12ns tplhMX=20ns tphlTY=12ns tphlMX=20ns)
.ENDS 74HC86

XUA 1A 1B 1Y 74HC86
XUB 2A 2B 2Y 74HC86
XUC 3A 3B 3Y 74HC86
XUD 4A 4B 4Y 74HC86
.ends
