* Audio-PWM with input frequency 1200k, variable duty cycle
.subckt audiopwm out+ out- in+ in-
apwm %vd in+ in- dout pwm
.model pwm d_pwm(
+ frequency = 1.2Meg
+ cntl_array = [-1 -0.99 0.99 1]
+ dc_array = [0.01 0.01 0.99 0.99]
+ init_phase = 90
+ rise_delay = 2e-9 fall_delay = 2e-9)

Rout dout out+ 1
Rout2 dout out- 1

.ends
