* subcircuit for 40106 using all 6 gates
.subckt 40106all in1 out1 in2 out2 in3 out3 vss out4 in4 out5 in5 out6 in6 vdd
.include CD40106B.lib
XU1a out1 in1 vdd vss CD40106B
XU1b out2 in2 vdd vss CD40106B
XU1c in3 out3 vdd vss CD40106B
XU1d in4 out4 vdd vss CD40106B
XU1e in5 out5 vdd vss CD40106B
XU1f in6 out6 vdd vss CD40106B
.ends
